US08008483B2
2,4-dichloro-6-methyl-1,3,5-triazine (5 g, 31 mmol) was dissolved in a 1:1 mixture of acetonitrile and water and treated with an aqueous solution of methyl amine (0.88 mL, 31 mmol) at a low temperature maintained by immersing the reaction flask in an ice bath. The pH of the reaction mixture was adjusted to 9-10 with 1M NaOH and the reaction was stirred for 30 minutes. Then, 4-piperidinecarboxylic acid (5 g, 39 mmol) was added and the pH was maintained between 9 and 10 with additions of 1M NaOH as needed. The reaction was allowed to warm to room temperature and stirred for one hour. The reaction mixture was then concentrated and purified by preparative HPLC to provide 1-[4-methyl-6-(methylamino)-1,3,5-triazin-2-yl]-4-piperidinecarboxylic acid (31 mmol, 100%) as a white solid. MS (ES) m/e 252 [M+H]+. 1H NMR (400 MHz, methanol-D4) 4.7 (m, 2H), 3.3 (s, 2H), 3.0 (s, 3H), 2.7 (m, 1H), 2.4 (s, 3H), 2.0 (m, 2H), 1.7 (m, 2H)

reactant | 2,4-dichloro-6-methyl-1,3,5-triazine | 31 mmol, 5 g | ClC1=NC(=NC(=N1)Cl)C | C4H3Cl2N3
reactant | methyl amine | 31 mmol, 0.88 mL | CN | CH5N
reactant | NaOH | 1M | [OH-].[Na+]
reactant | 4-piperidinecarboxylic acid | 39 mmol, 5 g | N1CCC(CC1)C(=O)O | C6H11NO2
reactant | NaOH | 1M | [OH-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
product | 1-[4-methyl-6-(methylamino)-1,3,5-triazin-2-yl]-4-piperidinecarboxylic acid | 31 mmol, 100% | CC1=NC(=NC(=N1)NC)N1CCC(CC1)C(=O)O | C11H17N5O2
